US07417169B2
Ethyl 4′-{(R)-2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]propyloxy}biphenyl-4-carboxylate
Ethyl 4′-{(R)-2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-triethylsilanyloxyethylamino]propyloxy}biphenyl-4-carboxylate was dissolved in tetrahydrofuran (5.70 mL), and a 1 mol/L solution of tetrabutylammonium fluoride in tetrahydrofuran (0.63 mL) was added dropwise to the solution at room temperature with stirring. After being stirred at that temperature for 13 hrs, the reaction mixture was concentrated in vacuo. The residue was purified by silica gel flash column chromatography (eluent: methylene chloride/ethyl acetate=1/1 and methylene chloride/methanol=10/1) to afford the title compound (0.284 g).

reactant | Ethyl 4′-{(R)-2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-triethylsilanyloxyethylamino]propyloxy}biphenyl-4-carboxylate | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H](COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C)O[Si](CC)(CC)CC)NS(=O)(=O)C | C40H52N2O7SSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 5.70 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.63 mL | O1CCCC1 | C4H8O
product | Ethyl 4′-{(R)-2-[(R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]propyloxy}biphenyl-4-carboxylate | 0.284 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)[C@H](CN[C@@H](COC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)OCC)C)O)NS(=O)(=O)C | C34H38N2O7S
